* C:\users\fadelrio\Documents\Ingenieria\Taller de circuitos\TP\cuarto_check\oscilador.asc
* Generated by LTspice 24.1.10 for Windows.
R2 N008 N002 25k
R1 N006 N008 100k
R3 N001 N006 300k
C1 N002 N001 10p
V4 Vcc 0 12
R4 Vcc N006 800
X§U1 N008 N005 Vcc 0 N006 LM393A ;§pnba In+)In-)V+)V-)OUT
R7 N003 N007 3.8k
C2 N004 N003 1n
V1 N010 0 6
V2 N007 0 PULSE(1 11 0 1n 1n 3.84u 7.69u)
V3 N005 0 6
X§U3 N010 N003 Vcc 0 N004 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U5 N005 N001 Vcc 0 N002 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U2 N011 N002 Vcc 0 N009 LM393A ;§pnba In+)In-)V+)V-)OUT
V5 N011 0 7
R5 Vcc N009 800
.tran 0 0.0001 0 500n
.include LM393A.lib
.include TL082.lib
.lib ADI.lib
.backanno
.end
