* C:\users\fadelrio\Documents\Ingenieria\Taller de circuitos\TP\primer_check\primer_check.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N001 N002 vo 0 Qmje3055t
Q2 N002 N003 N004 0 BC547C
RL vo 0 {R_L}
Rf2 vo N003 3k
Rf1 0 N003 2k
R1 N002 N001 500
VIN N001 0 10
V2 N004 0 1.3
.model NPN NPN
.model PNP PNP
.lib C:\users\fadelrio\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R_L 1000
.step param R_L 100 .001 .5
.lib mje3055.lib
.op
* .dc VIN 0 30 .1
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=12
.meas DC Vo2rl FIND V(Vo) AT=24
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.backanno
.end
