* C:\users\fadelrio\Documents\Ingenieria\Taller de circuitos\tp\primer_check\primer_check_2.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N002 N005 N007 0 BC547C
Q2 N004 N006 N007 0 BC547C
Q3 N003 N004 Vo 0 BC547C
Q4 N002 N002 N001 0 BC557C
Q5 N004 N002 N001 0 BC557C
R1 N007 0 1.3k
V1 N005 0 2
VIN N001 0 10
Q6 Vo N003 N001 0 Qmje2955t
RL Vo 0 {R_L}
R3 Vo N006 3k
R4 0 N006 2k
.model NPN NPN
.model PNP PNP
.lib C:\users\fadelrio\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R_L 1000
.lib mje2955.lib
.dc VIN 0 30 .1
;step param R_L 100 .001 .5
* .op
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=12
.meas DC Vo2rl FIND V(Vo) AT=24
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.backanno
.end
