* Z:\home\fadelrio\Documents\Ingenieria\Taller de circuitos\TP\quinto_check\fuente_conmutada_1.asc
* Generated by LTspice 24.1.10 for Windows.
L1 Vs Vo 300µ
C1 Vo 0 47µ
R1 Vo 0 10
C2 N002 0 100µ
V2 N001 0 {Vin}
M4 N002 N003 Vs Vs IRFZ44N
C3 Vb Vs 10n
D1 Vcc Vb 1N4148
R2 N003 Vho 10
R3 N004 Vlo 10
M3 Vs N004 0 0 IRFZ44N
R4 N002 N001 1
X§U2 Vlo Vho 0 Vpulse Vcc Vb Vs Vcc IR2104 ;§pnba LO)HO)COM)IN)VCC)VB)VS)NSD
X§U3 N011 N010 Vcc 0 N009 ADTL082 ;§pnba In+)In-)V+)V-)OUT
V3 N011 0 2.5
R5 Vo N010 39k
R6 N010 0 15k
V4 Vcc 0 9
X§U4 N009 Triang Vcc 0 Vpulse LM393A ;§pnba In+)In-)V+)V-)OUT
R7 Vcc Vpulse 820
R9 N008 Triang 24k
R10 N007 N008 51k
R11 N005 N007 27k
C6 Triang N005 220p
R12 Vcc N007 820
X§U5 N008 N006 Vcc 0 N007 LM393A ;§pnba In+)In-)V+)V-)OUT
V1 N006 0 4.5
X§U6 N006 N005 Vcc 0 Triang ADTL082 ;§pnba In+)In-)V+)V-)OUT
C4 N010 N009 47n
L2 Vs Vo 300µ
C7 Vo 0 47µ
R13 Vo 0 10
C8 N013 0 100µ
V5 N012 0 {Vin}
M1 N013 N014 Vs Vs IRFZ44N
R14 N014 Vho 10
R15 N015 Vlo 10
M2 Vs N015 0 0 IRFZ44N
R16 N013 N012 1
X§U7 N019 N016 Vcc 0 N018 ADTL082 ;§pnba In+)In-)V+)V-)OUT
V6 N019 0 2.5
R17 Vo N017 39k
R18 N017 0 15k
X§U8 N018 Triang Vcc 0 Vpulse LM393A ;§pnba In+)In-)V+)V-)OUT
R19 Vcc Vpulse 820
L3 N017 N016 1G
C5 N016 N020 1
V7 N020 0 AC 1
.model D D
.lib C:\users\fadelrio\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\fadelrio\AppData\Local\LTspice\lib\cmp\standard.mos
* .tran 0 10m 0
;step param Vin 12 30 .25
* .op
.param Vin=24
.include IR2104.lib
.options cshunt=1e-15
.options abstol=1e-10
.options gmin=1e-10
;inc IR2104.asy
.inc LM393A.lib
.ac dec 10 1 1Meg
.lib ADI.lib
.lib IR2104.lib
.backanno
.end
